US04587341
A. N-(4-Bromophenyl)-3-oxobutyramide
To a stirred solution of 34.14 g (0.200 moles) of 4-bromoaniline in 130 ml toluene under N2, 18.00 g (0.220 moles) of diketene was added dropwise over a 10 minute period followed by 15 ml of toluene. The temperature rose to 80° C. during the addition; the solution was then refluxed 20 minutes, cooled to 55° C. and 60 ml of petroleum ether added. An immediate precipitation occurred. The tan-white crystals were filtered and washed with three 100 ml portions of 1:1 toluene/petroleum ether. The product was taken up in hot absolute ethanol and crystallisation induced by addition of toluene to the ethanolic solution. Three crops of crystals from the ethanol/toluene solvent system gave 22.90 g (43%) and had Rf 0.69 on silica TLC with ethyl acetate; mp 135.8°-137.2° C. Anal. Calcd. for C10H10BrNO2 : C, 46.90; H, 3.94; N, 5.47; Br, 31.20. Found: C, 47.13; H, 4.00; N, 5.46; Br, 31.31.

reactant | 4-bromoaniline | 0.200 moles, 34.14 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | diketene | 0.220 moles, 18.00 g | C=C1CC(=O)O1 | C4H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Bromophenyl)-3-oxobutyramide | BrC1=CC=C(C=C1)NC(CC(C)=O)=O | C10H10BrNO2
